US06008230
To a solution of 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline (153 mg) in dimethylformamide were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (109 mg) and 1-hydroxybenzotriazole (76.5 mg), and the mixture was stirred for 2 hours at ambient temperature. To the mixture was added conc. ammonia solution (0.2 ml) with stirring, and the mixture was stirred for 6 hours at ambient temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated ammonium chloride solution, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethanol to give 3-carbamoyl-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline (128.3 mg).

reactant | 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline | 153 mg | C(=O)(O)C=1C=NC2=C(C=CC=C2C1OCC)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H14Cl2N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 109 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 76.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 0.2 ml | N | H3N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-carbamoyl-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline | 128.3 mg | C(N)(=O)C=1C=NC2=C(C=CC=C2C1OCC)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H15Cl2N3O3
